US08487109B2
4-(3-Diethylamino-prop-1-ynyl)-3-methoxy-benzonitrile
This product was prepared from benzene-sulfonic acid 4-cyano-2-methoxy-phenyl ester and diethyl-prop-2-ynyl-amine following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/EtOAc 1:1; yield (90 mg, 74%); 1H NMR δ (CDCl3): 7.52 (d, J=8.35 Hz, 1H), 7.21 (d, J=8.21 Hz, 1H), 7.11 (s, 1H), 3.81 (s, 3H), 2.69 (t, J=7.22 Hz, 2H), 2.58 (t, J=7.21 Hz, 2H), 1.99 (p, J=7.11 Hz, 2H); LCMS m/z: 242.

reactant | benzene-sulfonic acid 4-cyano-2-methoxy-phenyl ester | C(#N)C1=CC(=C(C=C1)OS(=O)(=O)C1=CC=CC=C1)OC | C14H11NO4S
reactant | diethyl-prop-2-ynyl-amine | C(C)N(CC#C)CC | C7H13N
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-(3-Diethylamino-prop-1-ynyl)-3-methoxy-benzonitrile | C(C)N(CC#CC1=C(C=C(C#N)C=C1)OC)CC | C15H18N2O
